### PR TITLE
[Merged by Bors] - refactor(NumberTheory/LSeries): move evaluation argument s to last in  LSeries_congr

### PR DESCRIPTION
**Pull request by Periecle**
Align with Mathlib convention of having evaluation variables last, improving readability, partial application, and consistency with derivative/continuity lemmas. Previously, `s` was first, which was slightly off-pattern and less ergonomic in pipelines.

---

Change LSeries_congr to take the structural hypothesis h first and the evaluation point s last;
Updated all internal call sites accordingly.

LSeries_congr argument order changes from (s) (h) to (h) (s). Migration: replace uses  with . No semantic change.

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Injectivity.lean [hunk 1]
```diff
@@ -124,7 +124,7 @@ lemma LSeries.tendsto_atTop {f : ℕ → ℂ} (ha : abscissaOfAbsConv f < ⊤) :
   have hF₀ : F 0 = 0 := rfl
   have hF {n : ℕ} (hn : n ≠ 0) : F n = f n := if_neg hn
   have ha' : abscissaOfAbsConv F < ⊤ := (abscissaOfAbsConv_congr hF).symm ▸ ha
-  simp_rw [← LSeries_congr _ hF]
+  simp_rw [← LSeries_congr hF _]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/Injectivity.lean]:
```suggestion
  simp_rw [← LSeries_congr hF]
```
should work here (this is the advantage of having `s` last :-) ).

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 2]
```diff
@@ -137,7 +137,8 @@ theorem LSeries_eq_mul_integral (f : ℕ → ℂ) {r : ℝ} (hr : 0 ≤ r) {s :
     (by filter_upwards [eventually_ne_atTop 0] with n h using if_neg h)] at hS
   have (n : _) : ∑ k ∈ Icc 1 n, (if k = 0 then 0 else f k) = ∑ k ∈ Icc 1 n, f k :=
     Finset.sum_congr rfl fun k hk ↦ by rw [if_neg (zero_lt_one.trans_le (mem_Icc.mp hk).1).ne']
-  rw [← LSeries_congr _ (fun _ ↦ if_neg _), LSeries_eq_mul_integral_aux (if_pos rfl) hr hs hS] <;>
+  rw [← LSeries_congr (fun _ ↦ if_neg _) _,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean]:
```suggestion
  rw [← LSeries_congr fun _ ↦ if_neg _,
```
like above.

File: Mathlib/NumberTheory/LSeries/Injectivity.lean (hunk 1 above)
Comment (Periecle) [reply Mathlib/NumberTheory/LSeries/Injectivity.lean]: Yeah, you right, fixed

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean (hunk 2 above)
Comment (Periecle) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean]: Thanks, fixed

**Comment by MichaelStollBayreuth** [comment]
Thanks for dealing with this TODO!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
